US06200981B1
i) 3-Bromomethyl-5-methylbenzoic acid, ethyl ester
The subtitle compound was prepared from ethyl 3,5-dimethylbenzoate (2 g) and N-bromosuccinimide (2 g) by the method of example 5 step (i). Purification was by chromatography eluting with 5% ethyl acetate in isohexane Yield 1.85 g.

reactant | ethyl 3,5-dimethylbenzoate | 2 g | CC=1C=C(C(=O)OCC)C=C(C1)C | C11H14O2
reactant | N-bromosuccinimide | 2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 3-Bromomethyl-5-methylbenzoic acid, ethyl ester | BrCC=1C=C(C(=O)OCC)C=C(C1)C | C11H13BrO2
